US07910556B2
After 3.0 mL (12 mmol) of 4M hydrogenchloride/ethyl acetate solution was added to a solution of 506.2 mg (1.22 mmol) of N-t-butoxycarbonyl-β-cyclohexyl-L-alanyl-glycyl-glycine ethylester in ethyl acetate (1 mL) with stirring under ice cooling, the reaction mixture was stirred at room temperature for 4.5 hours. Diethyl ether (12 mL) was added to the mixture and the mixture was stirred under ice cooling. Then the precipitates were collected by filtration to obtain hygroscopic crude crystals. The crude crystals were suspended in diethyl ether (10 mL), and then collected by filtration, to give 370.3 mg of β-cyclohexyl-L-alanyl-glycyl-glycine ethyl ester hydrochloride (yield 86%) as a colorless crystalline power.

reactant | hydrogenchloride ethyl acetate | 12 mmol, 4M, 3.0 mL | Cl.C(C)(=O)OCC
reactant | N-t-butoxycarbonyl-β-cyclohexyl-L-alanyl-glycyl-glycine ethylester | 1.22 mmol, 506.2 mg | C(C)OC(CNC(CNC([C@@H](NC(=O)OC(C)(C)C)CC1CCCCC1)=O)=O)=O | C20H35N3O6
solvent | ethyl acetate | 1 mL | C(C)(=O)OCC | C4H8O2
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
solvent | Diethyl ether | 12 mL | C(C)OCC | C4H10O
product | β-cyclohexyl-L-alanyl-glycyl-glycine ethyl ester hydrochloride | 370.3 mg, yield 86% | Cl.C(C)OC(CNC(CNC([C@@H](N)CC1CCCCC1)=O)=O)=O | InChI=1S/C15H27N3O4.ClH/c1-2-22-14(20)10-17-13(19)9-18-15(21)12(16)8-11-6-4-3-5-7-11;/h11-12H,2-10,16H2,1H3,(H,17,19)(H,18,21);1H/t12-;/m0./s1
